US07078428B2
3,6-Difluoro-N-isobutylphthalimide is prepared as described in Example 2, starting with 5.0 g of 3,6-difluorophthalic anhydride, 2.7 cm3 of isobutylamine and a catalytic amount of para-toluenesulfonic acid in 50 cm3 of toluene. The reaction mixture is refluxed for 3 hours. After cooling to a temperature in the region of 20° C., the reaction mixture is filtered and then concentrated to dryness under reduced pressure (2 kPa). The residue is taken up in 50 cm3 of saturated aqueous sodium bicarbonate solution and washed 3 times with 80 cm3 of dichloromethane. The organic extracts are combined, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 6.41 g of 3,6-difluoro-N-isobutylphthalimide are thus obtained in the form of a pale yellow solid. (Rf=0.74, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (50/50 by volume)).

reactant | 3,6-difluorophthalic anhydride | 5.0 g | FC1=C2C(C(=O)OC2=O)=C(C=C1)F | C8H2F2O3
reactant | isobutylamine | 2.7 cm3 | C(C(C)C)N | C4H11N
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 cm3 | C1(=CC=CC=C1)C | C7H8
product | 3,6-difluoro-N-isobutylphthalimide | 6.41 g | FC1=C2C(C(=O)N(C2=O)CC(C)C)=C(C=C1)F | C12H11F2NO2
